US07560558B2
Compound 419: Ethyl 2-(6,7-dimethoxy-quinolin-4-ylsulfanyl)-5-fluoro-benzoate
2-(6,7-Dimethoxy-quinolin-4-ylsulfanyl)-5-fluoro-benzoic acid (76 mg) was suspended in ethanol (387 mg), and the suspension was cooled at 0° C. Thionyl chloride (50 mg) was gradually added dropwise thereto, and the mixture was then heated under reflux for 20 min. The solvent was removed by distillation under the reduced pressure, water was added to the residue, and the mixture was neutralized with a 20% aqueous sodium hydroxide solution and was then extracted with ethyl acetate. Next, the ethyl acetate layer was washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (68 mg, 84%).

reactant | 2-(6,7-Dimethoxy-quinolin-4-ylsulfanyl)-5-fluoro-benzoic acid | 76 mg | COC=1C=C2C(=CC=NC2=CC1OC)SC1=C(C(=O)O)C=C(C=C1)F | C18H14FNO4S
reactant | Thionyl chloride | 50 mg | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 387 mg | C(C)O | C2H6O
product | Ethyl 2-(6,7-dimethoxy-quinolin-4-ylsulfanyl)-5-fluoro-benzoate | 68 mg, 84% | COC=1C=C2C(=CC=NC2=CC1OC)SC1=C(C(=O)OCC)C=C(C=C1)F | C20H18FNO4S
